US07820654B2
2,2,2-Trifluoro-N-(4-hydroxy-6-phenylpyrimidin-2-yl)acetamide was prepared by treating 2-amino-6-phenylpyrimidin-4-ol with trifluoroacetic anhydride according to the procedure described in Example 21. Yield: 39%.

reactant | 2-amino-6-phenylpyrimidin-4-ol | NC1=NC(=CC(=N1)O)C1=CC=CC=C1 | C10H9N3O
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2,2,2-Trifluoro-N-(4-hydroxy-6-phenylpyrimidin-2-yl)acetamide | Yield: 39% | FC(C(=O)NC1=NC(=CC(=N1)O)C1=CC=CC=C1)(F)F | C12H8F3N3O2
